US06465687B1
3-Chloro-5-iodo-4-hydroxyphenylacetic acid methyl ester (90 mg) was coupled with bis (3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate (310 mg) by the procedure described in Example 1(a) to afford 3-chloro-5-iodo-4-(4-methoxy-3-isopropylphenoxy) phenylacetic acid methyl ester (70 mg, 54%).

reactant | 3-Chloro-5-iodo-4-hydroxyphenylacetic acid methyl ester | 90 mg | COC(CC1=CC(=C(C(=C1)I)O)Cl)=O | C9H8ClIO3
reactant | bis (3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate | 310 mg | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
product | 3-chloro-5-iodo-4-(4-methoxy-3-isopropylphenoxy) phenylacetic acid methyl ester | 70 mg, 54% | COC(CC1=CC(=C(C(=C1)I)OC1=CC(=C(C=C1)OC)C(C)C)Cl)=O | C19H20ClIO4
